US07456191B2
(R)-2-(2-Chloro-5-iodo-pyrimidin-4-ylamino)-3-methyl-butan-1-ol
A solution of 10.05 g (36.6 mmol) of 2,4-Dichloro-5-iodo-pyrimidine and 5.6 ml (40.0 mmol) triethylamine in 30 ml of acetonitrile is mixed with 4.85 g (47.0 mmol) of (R)-2-Amino-3-methyl-butan-1-ol. The batch is stirred at room temperature for 16 hours and is finally diluted with water. The batch is filtered and the solid is washed with small amounts of acetonitrile and water. The solid is dried. 10.24 g (30.0 mmol, corresponding to 82% of theory) of the product is obtained.

reactant | 2,4-Dichloro-5-iodo-pyrimidine | 36.6 mmol, 10.05 g | ClC1=NC=C(C(=N1)Cl)I | C4HCl2IN2
reactant | triethylamine | 40.0 mmol, 5.6 ml | C(C)N(CC)CC | C6H15N
reactant | (R)-2-Amino-3-methyl-butan-1-ol | 47.0 mmol, 4.85 g | N[C@@H](CO)C(C)C | C5H13NO
solvent | acetonitrile | 30 ml | C(C)#N | C2H3N
solvent | water | O | H2O
product | (R)-2-(2-Chloro-5-iodo-pyrimidin-4-ylamino)-3-methyl-butan-1-ol | ClC1=NC=C(C(=N1)N[C@@H](CO)C(C)C)I | C9H13ClIN3O
